US05442060
To a solution of 7.09 g (40 mmol) of 2, 6-diisopropylaniline in 54 ml of water and 18 ml of conc. hydrochloric acid was dropwise added a solution of 2.76 g (40 mmol) of sodium nitrite in 16 ml of water with sufficient stirring and ice cooling, and the resultant mixture was stirred for further 10 minutes. A solution of 6.64 g (40 mmol) of potassium iodide in 6 ml of water was added to the mixture, and the mixture was stirred for 4 hours at room temperature and refluxed with heating for 1 hour. After cooling, the reaction mixture was extracted with hexane, and the extract was washed with aqueous sodium nitrite and saturated saline in this order, dried over anhydrous magnesium sulfate and the solvent evaporated. The residue was chromatographed on a silica gel column, eluting with hexane to give 5.09 g of 2, 6-diisopropylphenyl iodide as an oil.

reactant | 2, 6-diisopropylaniline | 40 mmol, 7.09 g | C(C)(C)C1=C(N)C(=CC=C1)C(C)C | C12H19N
reactant | sodium nitrite | 40 mmol, 2.76 g | N(=O)[O-].[Na+]
reactant | potassium iodide | 40 mmol, 6.64 g | [I-].[K+]
solvent | water | 54 ml | O | H2O
solvent | hydrochloric acid | 18 ml | Cl | ClH
solvent | water | 16 ml | O | H2O
solvent | water | 6 ml | O | H2O
product | 2, 6-diisopropylphenyl iodide | 5.09 g | C(C)(C)C1=C(C(=CC=C1)C(C)C)I | C12H17I
